US03932641
A solution of 1.94 g. (0.01 mole) of 3-methyl-2-(2-pyridyl)thiobutanamide in 40 ml. of methanol is treated with 1.6 g. (0.015 mole) of N-methylaniline and 1.22 ml. of 37% formalin solution. The reaction is kept at 25°C. for 12 hours, then refluxed for 4 hours. The solvents are evaporated in vacuo and the residue is triturated with ethyl acetate and cooled, then filtered. The filtrate is evaporated in vacuo and the resulting oil is triturated with cold ether to give 3-methyl-N-(N-methyl-N-phenylaminomethyl)-2-(2-pyridyl)thiobutanamide, which after recrystallization from ether melts at 95°-97°C.

reactant | 3-methyl-2-(2-pyridyl)thiobutanamide | 0.01 mole | CC(C(C(=S)N)C1=NC=CC=C1)C | C10H14N2S
reactant | N-methylaniline | 0.015 mole | CNC1=CC=CC=C1 | C7H9N
reactant | formalin | C=O | CH2O
solvent | methanol | CO | CH4O
product | 3-methyl-N-(N-methyl-N-phenylaminomethyl)-2-(2-pyridyl)thiobutanamide | CC(C(C(=S)NCN(C1=CC=CC=C1)C)C1=NC=CC=C1)C | C18H23N3S
